US04640916
To a solution of 3.06 g of 2-amino-4,5-dimethylthiophenol in 50 ml of dimethylformamide was added 5.48 g of methyl 2,5-dibromovalerate at room temperature with stirring. The mixture was stirred for 14 hours, poured into water, and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4), and concentrated. The residue was washed with a mixture of ether and hexane to obtain 4.35 g (69.3%) of 2-(3-bromopropyl)-6,7-dimethyl-2H-1,4-benzothiazin-3(4H)-one as crystals. Recrystallization from methanol gave prisms, m.p. 151°-153° C.

reactant | 2-amino-4,5-dimethylthiophenol | 3.06 g | NC1=C(C=C(C(=C1)C)C)S | C8H11NS
reactant | methyl 2,5-dibromovalerate | 5.48 g | BrC(C(=O)OC)CCCBr | C6H10Br2O2
reactant | water | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-(3-bromopropyl)-6,7-dimethyl-2H-1,4-benzothiazin-3(4H)-one | 4.35 g, 69.3% | BrCCCC1SC2=C(NC1=O)C=C(C(=C2)C)C | C13H16BrNOS
